US20010056109A1
a) 2-Benzylideneindan-1-one
To a solution of 1-indanone (5.0 g) and benzaldehyde (4.1 g) in methanol (40 ml), was added 2.2 ml of 48% aqueous sodium hydroxide solution. The reaction mixture was stirred at room temperature for 0.5 hr. The resulting precipitate was filtered and washed with water. The yield was 7.9 g.

reactant | 1-indanone | 5.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | benzaldehyde | 4.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydroxide | 2.2 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 2-Benzylideneindan-1-one | C(C1=CC=CC=C1)=C1C(C2=CC=CC=C2C1)=O | C16H12O
